US06376672B1
In analogy to the procedure described in example 1 (k) the (3R,4R,5S)-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-3-(4-methoxy-naphthalen-2-ylmethoxy)-5-[(2R)-oxiranylmethoxy]-piperidine-1-carboxylic acid tert-butyl ester was treated with sodium 2-methoxy-ethylate (prepared from 2-methoxy-ethanol and sodium hydride) to give the (3S,4R,5R)-3-[(2R)-2-hydroxy-3-(2-methoxy-ethoxy)-propoxy]-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-5-(4-methoxy-naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester as colorless oil; MS: 790.4 (M+H)+.

reactant | (3R,4R,5S)-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-3-(4-methoxy-naphthalen-2-ylmethoxy)-5-[(2R)-oxiranylmethoxy]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H]([C@@H](C1)OC[C@@H]1OC1)C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)OCC1=CC2=CC=CC=C2C(=C1)OC | C42H51NO9
reactant | sodium hydride | [H-].[Na+]
solvent | 2-methoxy-ethanol | COCCO | C3H8O2
product | (3S,4R,5R)-3-[(2R)-2-hydroxy-3-(2-methoxy-ethoxy)-propoxy]-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-5-(4-methoxy-naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H]([C@H](C1)OCC1=CC2=CC=CC=C2C(=C1)OC)C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)OC[C@@H](COCCOC)O | C45H59NO11
